US06218418B1
3-Cyclopropyl-5-nitro-1H-pyrazole
To a solution of 2.7 g of sodium hydrate in 454 ml of water 7.1 g (0.058 mol) of 3-cyclopropyl-5-amino-1H-pyrazole and 46.5 g of sodium hydrogenocarbonate were added at 0° C. After 10 minutes a solution of 337 ml of acetone in 221 ml of water and a solution of 130 g (0.21 mol) of oxone in 580 ml of water were contemporaneously dropped under vigorous stirring. After 4 hours at the same temperature the reaction is quenched with a saturated solution of sodium sulfite and extracted with ethylacetate. The organic layer was dried over anhydrous sodium sulfate and evaporated to dryness to give 4.6 g (52% yield) of the title compound.

reactant | sodium hydrate | 2.7 g | O.[Na]
reactant | 3-cyclopropyl-5-amino-1H-pyrazole | C1(CC1)C1=NNC(=C1)N | C6H9N3
reactant | sodium | 46.5 g | [Na] | Na
reactant | oxone | 0.21 mol, 130 g | OOS(=O)[O-].[K+]
solvent | water | 221 ml | O | H2O
solvent | water | 580 ml | O | H2O
solvent | water | 0.058 mol, 454 ml, 7.1 g | O | H2O
solvent | acetone | 337 ml | CC(=O)C | C3H6O
product | 3-Cyclopropyl-5-nitro-1H-pyrazole | 4.6 g, 52% yield | C1(CC1)C1=NNC(=C1)[N+](=O)[O-] | C6H7N3O2
